US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-(4-carbamoyl-1,3-oxazol-2-yl)azetidine (1.30 g, 3.08 mmol) in tetrahydrofuran (60 ml) was added a solution of 1.0M tetra-n-butylammonium fluoride in tetrahydrofuran (3.1 ml) in an ice bath, and the mixture was stirred for 1 hour. After checking the completion of the reaction, the reaction mixture was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate:methanol (10:1) as the eluant to afford 1-(4-carbamoyl-1,3-oxazol-2-yl)-3-hydroxyazetidine (0.43 g, yield 75%) as a white solid.

reactant | 3-t-butyldiphenylsilyloxy-1-(4-carbamoyl-1,3-oxazol-2-yl)azetidine | 3.08 mmol, 1.30 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1OC=C(N1)C(N)=O | C23H27N3O3Si
reactant | tetra-n-butylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.1 ml | O1CCCC1 | C4H8O
product | 1-(4-carbamoyl-1,3-oxazol-2-yl)-3-hydroxyazetidine | 0.43 g, yield 75% | C(N)(=O)C=1N=C(OC1)N1CC(C1)O | C7H9N3O3
